US09108983B2
4-Methoxy-2-[4-(methoxycarbonyl)-1,5-dimethyl-1H-pyrrol-2-yl]-benzoic acid
The procedure is in accordance with the process of Preparation 1, replacing the ethyl 2-methyl-1H-pyrrole-3-carboxylate used in Step A by methyl 2-methyl-1H-pyrrole-3-carboxylate and also the 2-bromo-4-chlorobenzaldehyde used in Step B by 2-bromo-4-methoxybenzaldehyde.

reactant | ethyl 2-methyl-1H-pyrrole-3-carboxylate | CC=1NC=CC1C(=O)OCC | C8H11NO2
reactant | methyl 2-methyl-1H-pyrrole-3-carboxylate | CC=1NC=CC1C(=O)OC | C7H9NO2
reactant | 2-bromo-4-chlorobenzaldehyde | BrC1=C(C=O)C=CC(=C1)Cl | C7H4BrClO
reactant | 2-bromo-4-methoxybenzaldehyde | BrC1=C(C=O)C=CC(=C1)OC | C8H7BrO2
product | 4-Methoxy-2-[4-(methoxycarbonyl)-1,5-dimethyl-1H-pyrrol-2-yl]-benzoic acid | COC1=CC(=C(C(=O)O)C=C1)C=1N(C(=C(C1)C(=O)OC)C)C | C16H17NO5
